US07572793B2
Synthesis of 2-[4-(4-Chlorobenzoyl)piperidin-1-yl]-3-methyl-6-pyrimidin-4-yl-3H-pyrimidin-4-one (Compound No. D034 in Table-1)
A solution of (4-Chlorobenzoyl)piperidine hydrochloride (140 mg, 0.539 mmol), 2-chloro-3-methyl-6-(4-pyrimidyl)-pyrimidine-4-one (120 mg, 0.539 mmol) and triethylamine (0.188 ml, 1.35 mmol) in N,N-dimethylformamide(2 ml) was stirred at room temperature. After stirring for several hours, water was added to the reaction mixture. The precipitate was filtered, washed with water and dried to give the title compound (204 mg, 92%).

reactant | (4-Chlorobenzoyl)piperidine hydrochloride | 0.539 mmol, 140 mg | Cl.ClC1=CC=C(C(=O)N2CCCCC2)C=C1
reactant | 2-chloro-3-methyl-6-(4-pyrimidyl)-pyrimidine-4-one | 0.539 mmol, 120 mg | ClC1=NC(=CC(N1C)=O)C1=NC=NC=C1 | C9H7ClN4O
reactant | triethylamine | 1.35 mmol, 0.188 ml | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
reactant | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 2-[4-(4-Chlorobenzoyl)piperidin-1-yl]-3-methyl-6-pyrimidin-4-yl-3H-pyrimidin-4-one | 204 mg, 92% | ClC1=CC=C(C(=O)C2CCN(CC2)C2=NC(=CC(N2C)=O)C2=NC=NC=C2)C=C1 | C21H20ClN5O2
